US07687502B2
[6-(5-Methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-pyrido-[3,2-d]pyrimidin-4-yl)-thiazolo[5,4-b]pyridin-2-yl-amine
The compound of Example 35 was manufactured by the same method as in Example 31, by a similar method thereto or by a combination of such a method with a conventional method using 4,6-dichloro-pyrido[3,2-d]pyrimidine, thiazolo[5,4-b]-pyridin-2-yl-amine and 3-mercapto-5-methyl-1,2,4-triazole.

reactant | 4,6-dichloro-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
reactant | thiazolo[5,4-b]-pyridin-2-yl-amine | N1=C(SC2=NC=CC=C21)N | C6H5N3S
reactant | 3-mercapto-5-methyl-1,2,4-triazole | SC1=NNC(=N1)C | C3H5N3S
product | [6-(5-Methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-pyrido-[3,2-d]pyrimidin-4-yl)-thiazolo[5,4-b]pyridin-2-yl-amine | CC=1NC(=NN1)SC=1C=CC=2N=CN=C(C2N1)NC=1SC2=NC=CC=C2N1 | C16H11N9S2
